US07514566B2
To a 250 mL round-bottomed flask was added sodium chlorite (3.68 g, 40.7 mmol), tert-butyl 4-bromo-5-formylthiazol-2-ylcarbamate (1.18 g, 3.84 mmol), isobutanol (76.8 mL, 3.84 mmol), and an aqueous (30.00 mL, 3.84 mmol) solution of sodium dihydrogen phosphate (3.60 g, 30.0 mmol) followed by 2-methyl-2-butene (4.47 mL, 42.3 mmol). The mixture was stirred vigorously for about 3 hours. LCMS indicated complete conversion to product so the mixture was diluted with water (60 mL) and 120 mL of 1:1 EtOAc/hexanes. The aqueous layer was extracted with 1:1 EtOAc/hexanes, and the combined organic layers were washed with brine, dried over sodium sulfate, and filtered. The solvent was reduced providing the semi-crude product 4-bromo-2-(tert-butoxycarbonyl)thiazole-5-carboxylic acid (1.35 g, 109% yield). The crude product was used immediately without further purification.

reactant | sodium chlorite | 40.7 mmol, 3.68 g | Cl(=O)[O-].[Na+]
reactant | tert-butyl 4-bromo-5-formylthiazol-2-ylcarbamate | 3.84 mmol, 1.18 g | BrC=1N=C(SC1C=O)NC(OC(C)(C)C)=O | C9H11BrN2O3S
reactant | isobutanol | 3.84 mmol, 76.8 mL | C(C(C)C)O | C4H10O
reactant | sodium dihydrogen phosphate | 30.0 mmol, 3.60 g | P(=O)(O)(O)[O-].[Na+]
reactant | 2-methyl-2-butene | 42.3 mmol, 4.47 mL | CC(C)=CC | C5H10
reactant | water | 60 mL | O | H2O
product | 4-bromo-2-(tert-butoxycarbonyl)thiazole-5-carboxylic acid | 1.35 g, 109% yield | BrC=1N=C(SC1C(=O)O)C(=O)OC(C)(C)C | C9H10BrNO4S
